US05559230
A mixture of 5-methylamino-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (1.64 g), acetonitrile (20 ml), potassium carbonate (0.6 g) and ethyl bromoacetate (0.44 ml) is refluxed for 3 hours. The reaction solution is concentrated and water is added to the resulting residue, and the mixture is extracted three times with dichloromethane. The extract is washed with saturated saline solution, and dried over magnesium sulfate. The solvent is distilled off and the resulting residue is purified by silica gel column chromatography (eluent; dichloromethane:methanol=30:1), and recrystallized from ethyl acetate/petroleum ether to give 5-(N-methyl-N-ethoxycarbonylmethylamino)-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.82 g) as colorless prisms, m.p. 167°-168° C.

reactant | 5-methylamino-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 1.64 g | CNC1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C26H27N3O2
reactant | potassium carbonate | 0.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.44 ml | BrCC(=O)OCC | C4H7BrO2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 5-(N-methyl-N-ethoxycarbonylmethylamino)-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.82 g | CN(CC(=O)OCC)C1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C30H33N3O4
